US06518257B1
(ii) Production of 2-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}-N-methylacetamide
By the reaction in the same manner as in Example 33-(ii) using 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid (3.47 g), 2-(3-bromophenyl)-N-methylacetamide (0.93 g) and tetrakis(triphenylphosphine)palladium(0) (0.21 g), the title compound (580 mg) was obtained as colorless powder crystals.

reactant | 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid | 3.47 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C32H31BN2O3
reactant | 2-(3-bromophenyl)-N-methylacetamide | 0.93 g | BrC=1C=C(C=CC1)CC(=O)NC | C9H10BrNO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}-N-methylacetamide | 580 mg | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)NC | C41H39N3O2
